US05045557
Imidazole-4-sulphonyl chloride was reacted with 4-chloro-N-methylaniline to give 4-[N-(4-chlorophenyl)-N-methylsulphamoyl]imidazole, m.p. 217°-9°. This was then treated with dimethylsulphamoyl chloride in a similar manner to that described in Example 1, to give 1-dimethylsulphamoyl-4-[N-(4-chlorophenyl)-N-methylsulphamoyl]imidazole, m.p. 131.5°-132°.

reactant | Imidazole-4-sulphonyl chloride | N1C=NC(=C1)S(=O)(=O)Cl | C3H3ClN2O2S
reactant | 4-chloro-N-methylaniline | ClC1=CC=C(NC)C=C1 | C7H8ClN
product | 4-[N-(4-chlorophenyl)-N-methylsulphamoyl]imidazole | ClC1=CC=C(C=C1)N(S(=O)(=O)C=1N=CNC1)C | C10H10ClN3O2S
